US07855290B2
N-[2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}1-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide
N-{4-[(2-Aminopyridin-4-yl)oxy]-2,5-difluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide (100.0 mg) was dissolved in tetrahydrofuran (1 ml) under a nitrogen atmosphere, and triethylamine (0.0630 ml) and phenyl chloroformate (0.0624 ml) were added dropwise at 0° C. in this order, followed by stirring for 30 min. The reaction mixture was stirred after addition of ethyl acetate (5 ml) and a saturated aqueous solution of sodium hydrogencarbonate (5 ml). The organic layer was separated, washed with brine, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. The residue was dissolved in N,N-dimethylformamide (1.0 ml). 3-Hydroxyazetidine hydrochloride (99.0 mg) and triethylamine (0.315 ml) were added at room temperature, followed by stirring for 22 hr and 5 min. The reaction mixture was partitioned between ethyl acetate (10 ml) and a saturated aqueous solution of sodium hydrogencarbonate (5 ml). The organic layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure. To the resultant residue were added ethyl acetate (1 ml) and heptane (1 ml) to precipitate a solid. The solid was collected by filtration. The resultant solid was purified by silica gel column chromatography (Fuji Silysia NH, eluent; ethyl acetate, then ethyl acetate:methanol=10:1), and fractions containing the target compound were concentrated under reduced pressure to provide the titled compound as white powder (71.1 mg, 58%).

reactant | N-{4-[(2-Aminopyridin-4-yl)oxy]-2,5-difluorophenyl}-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 100.0 mg | NC1=NC=CC(=C1)OC1=CC(=C(C=C1F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F)F | C22H17F3N4O3
reactant | triethylamine | 0.0630 ml | C(C)N(CC)CC | C6H15N
reactant | phenyl chloroformate | 0.0624 ml | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | sodium hydrogencarbonate | 5 ml | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-[2,5-Difluoro-4-[(2-{[(3-hydroxyazetidin-1-yl)carbonyl]amino}pyridin-4-yl)oxy]phenyl}1-N′-(4-fluorophenyl)cyclopropane-1,1-dicarboxamide | 71.1 mg, 58% | FC1=C(C=C(C(=C1)OC1=CC(=NC=C1)NC(=O)N1CC(C1)O)F)NC(=O)C1(CC1)C(=O)NC1=CC=C(C=C1)F | C26H22F3N5O5
